US07160875B2
b) 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid
TFA (3 ml) was added to a solution of 2-methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid tert-butyl ester (920 mg, 2.33 mmol) in dichloromethane (3 ml) and the mixture was stirred at r.t. overnight. The mixture was then taken up in more dichloromethane, washed with water, and dried (Na2SO4). After evaporation of the solvent, the title compound, MS: m/e=339.3 (M+H+), (580 mg, 73%) was obtained by chromatographic purification of the residue (silica gel, MeOH, CH2Cl2).

reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid tert-butyl ester | 2.33 mmol, 920 mg | C(C)(C)(C)OC(C(C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C)=O | C23H26N2O4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid | CC(C(=O)O)C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C19H18N2O4
